US09034866B2
Synthesis of 8-fluoro-9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide
A pressure tube containing a solution of ethyl 8-fluoro-9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6 methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate (389 mg at 77% purity LCMS-UV215) in methanolic ammonia (6 mL of 7.0M ammonia in methanol) was warmed to 44° C. for 48 hr. After cooling to room temperature, a 0.5 mL aliquot of the precipitous solution was sampled and the solid collected by filtration. The filtrate was pooled back into the reaction mixture and concentrated in vacuo to furnish the crude title compound (329 mg at 77% purity LCMS-UV215) as a tan solid which was used for the next step without further purification. The colourless solid isolated by filtration for characterisation purposes was analysed: 1H NMR (500 MHz, CDCl3) δ 1.69-1.74 (m, 2H), 2.92-3.00 (m, 2H), 3.47 (td, J=7.49, 3.63 Hz, 1H), 3.57 (td, J=8.28, 3.63 Hz, 1H), 4.00 (s, 3H), 5.39 (br. s., 1H), 6.81 (d, J=8.51 Hz, 1H), 7.36 (br. s., 1H), 8.73 (d, J=6.94 Hz, 1H); M+H=398.

reactant | ethyl 8-fluoro-9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6 methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 389 mg | FC1=CC2=C(C3=C(N(C(=N3)C(=O)OCC)C)C3CC2C3)C=C1I | C17H16FIN2O2
reactant | ammonia | 7.0M, 6 mL | N | H3N
product | 8-fluoro-9-iodo-3-methyl-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide | 329 mg, 77% | FC1=CC2=C(C3=C(N(C(=N3)C(=O)N)C)C3CC2C3)C=C1I | C15H13FIN3O
